US05508408
Example 3: 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
3-(7-fluoro-2-quinolinylmethoxy)aniline: 1.99 g of sodium carbonate are added to a solution of 1.36 g of 3-aminophenol in 150 ml of acetone and the batch is stirred for 15 min. at 20°. 3.0 g of 2-bromomethyl-7-fluoroquinoline, 4.07 g of caesium carbonate and 0.1 g of potassium iodide are added to the mixture which is boiled under reflux for 3 hours. The reaction mixture is filtered, the precipitate is washed with acetone and the filtrate is concentrated by evaporation. The residue is taken up in methylene chloride, washed with water, dried over sodium sulfate and concentrated by evaporation. The resulting orange oil is chromatographed on 200 g of silica gel using hexane/ethyl acetate 3:1. The title compound is obtained in the form of a yellow solid of m.p. 88°-89°.

reactant | 3-(7-fluoro-2-quinolinylmethoxy)aniline | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1 | C16H13FN2O
reactant | sodium carbonate | 1.99 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-aminophenol | 1.36 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2-bromomethyl-7-fluoroquinoline | 3.0 g | BrCC1=NC2=CC(=CC=C2C=C1)F | C10H7BrFN
reactant | caesium carbonate | 4.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C24H25FN2O4
